US09278910B2
Prepared using General Procedure 7: To a stirred solution of tert-butyl 2-((4-cyanobenzyl)amino)acetate (14.7 g, 47.7 mmol) INT-31 in DCM (150 mL) stirring in a 0° C. in an ice bath was added TEA (9.98 mL, 71.6 mmol) followed by 4-nitrobenzoyl chloride. The reaction mixture was allowed to warm to room temperature over 1.5 h. The reaction mixture was diluted with DCM (300 mL) and washed with NaHCO3 (2×200 mL). The organics were dried over dried over MgSO4 and concentrated in vacuo. The crude product was purified by chromatography (MeOH/DCM) followed by evaporation from hexanes to provide 11.5 g (61%) tert-butyl 2-(N-(4-cyanobenzyl)-4-nitrobenzamido)acetate INT-56 as a white powder. LCMS-ESI (m/z) calculated for C21H21N3O5: 395; found 394 [M−H]−, tR=2.33 min broad (Method 10).

reactant | tert-butyl 2-((4-cyanobenzyl)amino)acetate | 47.7 mmol, 14.7 g | C(#N)C1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C14H18N2O2
reactant | 4-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(N-(4-cyanobenzyl)-4-nitrobenzamido)acetate | 11.5 g, 61% | C(#N)C1=CC=C(CN(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)CC(=O)OC(C)(C)C)C=C1 | C21H21N3O5
